* 01: Single-ended cascoded VAS, double EF AB
* Behavioral reference netlist. The Python harness in simulate_amp_variants.py
* is the simulation used for comparison because no local SPICE engine was found.
* Rails: +/-15 V, load: 8 ohm, no global OUT-to-IN feedback.
* Output class: Class AB
*
* Stage map:
*   Input:  BJT emitter follower with RF/input reference
*   VAS:    NPN cascode VAS with transistor current source
*   Output: 2-stage complementary emitter follower, Class AB
*
* Behavioral parameters used by the harness:
*   target_total_gain=10.0
*   headroom_v=11.2
*   h2=0.0016
*   h3=0.0009
*   crossover_v=0.055
*   rout_ohm=0.16
*   idle_ma=55.0
*
VCC VCC 0 DC 15
VEE VEE 0 DC -15
VIN IN 0 SIN(0 0.1 1k)
* Replace BAMP with the expanded transistor schematic before hardware SPICE.
* BAMP OUT 0 V={ behavioral transfer for 01 }
ROUT OUT LOAD 0.16
RLOAD LOAD 0 8
RZ LOAD ZOB 10
CZ ZOB 0 100n
*.tran 0 30m 10m 2u
*.four 1k V(LOAD)
.end
