* Variant 03: Low-voltage folded cascode VAS, double emitter follower
* Radio.ru-inspired BJT topology study.
* This is a SPICE-like behavioral placeholder; the executable simulation is
* generate_radio_ru_5_study.py because no ngspice/LTspice binary was found.
*
* Source basis: Radio.ru BJT/current-source/mirror practices adapted for low-rail headroom
* Front end:    Degenerated BJT differential pair with current mirror load
* VAS:          Folded-cascode BJT VAS with current-source loads
* Output:       Two-stage complementary emitter follower, Class AB
* Feedback:     No overall feedback; local VAS/output degeneration only
*
* Rails +/-15 V, load 8 ohm, nominal gain Av=10.
* Behavioral parameters:
*   headroom_v=11.7
*   h2=0.00055
*   h3=0.00043
*   crossover_v=0.038
*   rout_ohm=0.1
*   bandwidth_khz=160.0
*   feedback=none
*
VCC VCC 0 DC 15
VEE VEE 0 DC -15
VIN IN 0 SIN(0 0.1 1000)
* Expand Q1..Qn according to schematics/03_folded_cascode_double_ef.svg before transistor-level SPICE.
ROUT OUT LOAD 0.1
RLOAD LOAD 0 8
RZ LOAD ZOB 10
CZ ZOB 0 100n
*.tran 0 40m 10m 2u
*.four 1000 V(LOAD)
.end
