* Variant 02: Rogov-style triple emitter follower output
* Radio.ru-inspired BJT topology study.
* This is a SPICE-like behavioral placeholder; the executable simulation is
* generate_radio_ru_5_study.py because no ngspice/LTspice binary was found.
*
* Source basis: Rogov 2018 two-vs-three follower discussion; Grechishkin 2013 BJT signal path
* Front end:    BJT long-tailed pair with current-source tail and mirror load
* VAS:          BJT VAS buffered by a pre-driver stage
* Output:       Three-stage complementary emitter follower, Class AB
* Feedback:     No overall feedback; local emitter degeneration and ballast resistors
*
* Rails +/-15 V, load 8 ohm, nominal gain Av=10.
* Behavioral parameters:
*   headroom_v=10.1
*   h2=0.00082
*   h3=0.00062
*   crossover_v=0.028
*   rout_ohm=0.065
*   bandwidth_khz=130.0
*   feedback=none
*
VCC VCC 0 DC 15
VEE VEE 0 DC -15
VIN IN 0 SIN(0 0.1 1000)
* Expand Q1..Qn according to schematics/02_rogoff_triple_ef.svg before transistor-level SPICE.
ROUT OUT LOAD 0.065
RLOAD LOAD 0 8
RZ LOAD ZOB 10
CZ ZOB 0 100n
*.tran 0 40m 10m 2u
*.four 1000 V(LOAD)
.end
