* Variant 03: Low-voltage folded cascode VAS, double emitter follower
* Transistor-level SPICE component netlist for the local component simulation.
* Source basis: Radio.ru BJT/current-source/mirror practices adapted for low-rail headroom
* Drive bias spread: 2.72 V, source resistance: 38 ohm, drive trim: 1.02
.model NPN_SMALL NPN(IS=1.1e-15 BF=95 VAF=90)
.model PNP_SMALL PNP(IS=1.4e-15 BF=75 VAF=90)
.model NPN_POWER NPN(IS=4.8e-15 BF=55 VAF=90)
.model PNP_POWER PNP(IS=5.6e-15 BF=48 VAF=90)
VCC VCC 0 DC 15
VEE VEE 0 DC -15
* VUP/VDN are stepped sine drive sources in the Python component solver.
RUPDRV UPSRC UP 38
RDNDRV DNSRC DN 38
QUDRV VCC UP UBASE NPN_SMALL
QUOUT VCC UBASE UEMIT NPN_POWER
QDDRV VEE DN DBASE PNP_SMALL
QDOUT VEE DBASE DEMIT PNP_POWER
RLOCALU UBASE OUT 1000
RLOCALD DBASE OUT 1000
REU UEMIT OUT 0.22
RED DEMIT OUT 0.22
RLOAD OUT 0 8
RZ OUT ZOB 10
CZ ZOB 0 100n
.tran 0 20m 10m 2u
.four 1k V(OUT)
.end
